US09290511B2
Ethyl 2-(4-chloro-5-phenyl-thieno[2,3-d]pyrimidin-2-yl)acetate (100 mg, 0.285 mmol), 4-(methoxymethyl)piperidine hydrochloride (52 mg, 0.314 mmol) and triethylamine (0.12 mL, 0.85 mmol) were dissolved in ethanol (4 mL) and heated to 65° C. for 6 hrs. The reaction was then heated to 150° C. in a microwave for 10 min. The reaction was poured over ice and extracted with DCM. The extracts were combined and concentrated in vacuo. The residue was dissolved in non-dry THF (2 mL) and lithium hydroxide monohydrate (48 mg) was added. The reaction was stirred at room temperature overnight then another portion of lithium hydroxide monohydrate was added (10 mg) and the reaction stirred for a further 2 hrs. The reaction mixture was purified on an Isolute NH2 SPE column (eluting ammonia in methanol) to give 2-[4-[4-(methoxymethyl)-1-piperidyl]-5-phenyl-thieno[2,3-d]pyrimidin-2-yl]acetic acid (107 mg).

reactant | Ethyl 2-(4-chloro-5-phenyl-thieno[2,3-d]pyrimidin-2-yl)acetate | 0.285 mmol, 100 mg | ClC=1C2=C(N=C(N1)CC(=O)OCC)SC=C2C2=CC=CC=C2 | C16H13ClN2O2S
reactant | 4-(methoxymethyl)piperidine hydrochloride | 0.314 mmol, 52 mg | Cl.COCC1CCNCC1
reactant | triethylamine | 0.85 mmol, 0.12 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 2-[4-[4-(methoxymethyl)-1-piperidyl]-5-phenyl-thieno[2,3-d]pyrimidin-2-yl]acetic acid | 107 mg | COCC1CCN(CC1)C=1C2=C(N=C(N1)CC(=O)O)SC=C2C2=CC=CC=C2 | C21H23N3O3S
